US07414050B2
j) 4-(4-Amino-3-bromo-phenyl)-piperidine-2,6-dione
A solution of 106 mg (0.519 mmol) of 4-(4-amino-phenyl)-piperidine-2,6-dione (as prepared in the previous step) in CH2Cl2 (20 mL) was cooled to 0° C. and treated with 92.4 mg (0.519 mmol) of NBS for 35 min. The mixture was diluted with CH2Cl2 (50 mL) and washed with saturated aqueous NaHCO3 (2×40 mL) and water (1×40 mL). The organic layer was dried (MgSO4) and concentrated in vacuo to afford 138 mg (94%) of the title compound as a tan solid: Mass spectrum (ESI, m/z): Calcd. for C11H11N2O2Br, 283.0/285.0 (M+H). found 283.1/285.1.

reactant | 4-(4-amino-phenyl)-piperidine-2,6-dione | 0.519 mmol, 106 mg | NC1=CC=C(C=C1)C1CC(NC(C1)=O)=O | C11H12N2O2
reactant | NBS | 0.519 mmol, 92.4 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-Amino-3-bromo-phenyl)-piperidine-2,6-dione | 138 mg, 94% | NC1=C(C=C(C=C1)C1CC(NC(C1)=O)=O)Br | C11H11BrN2O2
